US07030141B2
Step 1: Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
DL-proline (10 g, 86.9 mmol) was dissolved in 120 mL of THF:H2O (2:1), and 87 mL of a 2M NaOH solution was added, followed by Boc2O (24.6 g, 113 mmol). The reaction mixture was stirred at ambient temperature overnight. The THF was removed in vacuo. The remaining aqueous mixture was acidified to pH 3 with aqueous citric acid, extracted twice with EtOAc. The combined organinc layers were washed with water, brine, dried with MgSO4, filtered and concentrated to yield the title compound as a white solid. (18.7 g, quant.) APCI (AP−): 214.1 (M−H)−.

reactant | DL-proline | 86.9 mmol, 10 g | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | NaOH | 2M | [OH-].[Na+]
reactant | Boc2O | 113 mmol, 24.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | 120 mL | C1CCOC1.O
product | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
